US07312222B2
Step E. Preparation of (+/−)-3-[4-(4-flourophenylmethyl)piperidinomethyl]-N-(benzyloxycarbonyl)-pyrrolidine.
A solution of (+/−)-N-(benzyloxycarbonyl)-3-pyrrolidinecarboxaldehyde (416 mg, 1.79 mmol) and 4-(4-flourophenylmethyl)piperidine (518 mg, 2.69 mmol) in dry CH2Cl2 (15 mL) were stirred for 15 min when sodium triacetoxyborohydride (759 mg, 3.58 mmol, Aldrich) was added. The reaction was stirred for 2 h and then quenched with 1M aqueous HCl (50 mL) and CH2Cl2 (200 mL). The reaction was brought to pH 11 with 1M aqueous NaOH. The organic layer was separated, washed with brine, dried over MgSO4, and conc. in vacuo to a pale yellow oil. The oil was purified by radial chromatography (SiO2, CH2Cl2:MeOH, 97:3) to yield the product as a colorless oil. MS (ESI) 411 (M+H).

reactant | (+/−)-N-(benzyloxycarbonyl)-3-pyrrolidinecarboxaldehyde | 1.79 mmol, 416 mg | C(C1=CC=CC=C1)OC(=O)N1CC(CC1)C=O | C13H15NO3
reactant | 4-(4-flourophenylmethyl)piperidine | 2.69 mmol, 518 mg | FC1=CC=C(C=C1)CC1CCNCC1 | C12H16FN
reactant | sodium triacetoxyborohydride | 3.58 mmol, 759 mg | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
solvent | CH2Cl2 | 15 mL | C(Cl)Cl | CH2Cl2
product | (+/−)-3-[4-(4-flourophenylmethyl)piperidinomethyl]-N-(benzyloxycarbonyl)-pyrrolidine | FC1=CC=C(C=C1)CC1CCN(CC1)CC1CN(CC1)C(=O)OCC1=CC=CC=C1 | C25H31FN2O2
